US08044206B2
Under ice cooling, 6.77 ml of triethylamine and 3.87 ml of chloroacetyl chloride were added to a solution of 9.96 g of 4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine in 150 ml of tetrahydrofuran. After stirring at ambient temperature for 20 minutes, 200 ml of water was added to the mixture. After the organic layer was fractionated, the aqueous layer was extracted with diethyl ether. The combined organic layer was and washed with saturated aqueous sodium chloride. After drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate). The collected crystals were washed with diisopropyl ether-hexane and dried under reduced pressure to give 10.69 g of 1-(chloroacetyl)-4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine.

reactant | triethylamine | 6.77 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 3.87 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine | 9.96 g | CC1=C(C(=CC=C1)C)/C=C/C1CCNCC1 | C15H21N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(chloroacetyl)-4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine | 10.69 g | ClCC(=O)N1CCC(CC1)\C=C\C1=C(C=CC=C1C)C | C17H22ClNO
